US09062034B2
(b) 7-benzyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-2-ylamine
4.60 g (0.20 mol) sodium are dissolved in 250 ml of ethanol and at room temperature combined with 5.90 g (0.10 mmol) guanidine hydrochloride and 24.97 g (0.10 mol) 1-benzyl-5-chloro-azepan-4-carbaldehyde. Then the mixture is refluxed for 5 h, then stirred for 15 h at room temperature. It is then concentrated by evaporation i.vac., combined with 500 ml dichloromethane and washed 3 times with 400 ml of water. It is purified by chromatography through silica gel (eluant: dichloromethane/methanol 95:5), concentrated by evaporation i.vac. And triturated with ethanol.

reactant | sodium | 0.20 mol, 4.60 g | [Na] | Na
reactant | guanidine hydrochloride | 0.10 mmol, 5.90 g | Cl.NC(=N)N
reactant | 1-benzyl-5-chloro-azepan-4-carbaldehyde | 0.10 mol, 24.97 g | C(C1=CC=CC=C1)N1CCC(C(CC1)Cl)C=O | C14H18ClNO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 7-benzyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-2-ylamine | C(C1=CC=CC=C1)N1CCC2=C(CC1)C=NC(=N2)N | C15H18N4
